US08278457B2
In a microwave vial, a solution of trans-4-[(isopropylsulfonyl)amino]tetrahydrofuran-3-yl methanesulfonate (546 mg, 1.90 mmol) in acetonitrile (8 mL) was combined with 4-bromophenol (97%, 407 mg, 2.28 mmol) and cesium carbonate (929 mg, 2.85 mmol). The reaction was irradiated in a microwave reactor at 160° C. for 2 hours, then cooled to room temperature and treated with saturated aqueous sodium bicarbonate solution (10 mL). The reaction was extracted with ethyl acetate and the combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography (Gradient: 20% to 50% ethyl acetate in heptane), to afford trans-N-[4-(4-bromophenoxy)tetrahydrofuran-3-yl]propane-2-sulfonamide. Yield: 626 mg, 1.72 mmol, 91%. LCMS m/z 361.9 (M−1). 1H NMR (400 MHz, CDCl3) δ 1.38 (d, J=6.9 Hz, 3H), 1.40 (d, J=6.8 Hz, 3H), 3.19 (septet, J=6.8 Hz, 1H), 3.82 (br d, J=8.0, 1H), 3.91 (dd, J=10.6, 1.7 Hz, 1H), 4.02-4.08 (m, 2H), 4.24 (dd, J=10.5, 4.7 Hz, 1H), 4.85 (br d, J=4.7 Hz, 1H), 4.95 (br d, J=8.3 Hz, 1H), 6.88 (d, J=9.0 Hz, 2H), 7.40 (d, J=9.0 Hz, 2H). 13C NMR (100 MHz, CDCl3) δ 16.45, 16.71, 54.14, 58.70, 71.45, 71.81, 82.07, 113.97, 117.20, 132.52, 155.75.

reactant | trans-4-[(isopropylsulfonyl)amino]tetrahydrofuran-3-yl methanesulfonate | 1.90 mmol, 546 mg | CS(=O)(=O)O[C@@H]1COC[C@H]1NS(=O)(=O)C(C)C | C8H17NO6S2
reactant | 4-bromophenol | 2.28 mmol, 407 mg | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | cesium carbonate | 2.85 mmol, 929 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | trans-N-[4-(4-bromophenoxy)tetrahydrofuran-3-yl]propane-2-sulfonamide | BrC1=CC=C(O[C@H]2[C@@H](COC2)NS(=O)(=O)C(C)C)C=C1 | C13H18BrNO4S
